US06919404B2
2-Methyl-acrylic acid 6-[4-(2-methoxycarbonyl-vinyl)-phenoxy]-hexyl ester, Addition Monomer 1
To an ice-cooled solution of 20 g (72 mmol) 3-[4-(6-hydroxy-hexyloxy)-phenyl]-acrylic acid methyl ester, 11.7 g (116 mmol) triethylamine and 4 crystals of BHT in 150 ml of dichloromethane was added dropwise 11.3 g (108 mmol) of methacryloyl chloride in 5 ml dichloromethane. The mixture was allowed to react for 2 hours, at which time the dichloromethane was removed under reduced pressure. The mixture was partitioned between water (100 ml) and ethyl acetate (100 ml) and the aqueous layer subsequently extracted twice more with 100 ml portions of ethyl acetate. The combined organic layers were washed with 100 ml portions of 1M HCl, water, 5% sodium hydrogen carbonate and brine and then dried with magnesium sulfate and concentrated. Recrystallization from ethanol gave 18 g (72% yield) of a white solid.

reactant | 3-[4-(6-hydroxy-hexyloxy)-phenyl]-acrylic acid methyl ester | 72 mmol, 20 g | COC(C=CC1=CC=C(C=C1)OCCCCCCO)=O | C16H22O4
reactant | triethylamine | 116 mmol, 11.7 g | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 108 mmol, 11.3 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-Methyl-acrylic acid 6-[4-(2-methoxycarbonyl-vinyl)-phenoxy]-hexyl ester | 18 g, 72% yield | COC(=O)C=CC1=CC=C(OCCCCCCOC(C(=C)C)=O)C=C1 | C20H26O5
